US06875765B2
0.103 g (0.199 mmol) N-[3-((R)-2-Indazol-1-yl-1-methyl-ethoxy)-4-(2-ethoxy-5-oxo-tetrahydro-furan-3-ylsulfamoyl)-phenyl]-acetamide was stirred in 10 mL of a mixture of 1:1 5% HCl (aq):acetonitrile at room temperature 18 hr. TLC analysis indicated complete reaction. The solvent was removed under a nitrogen flow for 5 hr. The yellow residue was triturated with a 2:1 mixture of acetone:ether. The precipitate was filtered and dried at 35° C. 18 hr to yield 0.059 g (0.113 mmol, 65.5%) of 3-[4-acetylamino-2-((R)-2-indazol-1-yl-1-methyl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid hydrochloric acid salt. Analysis calculated for C22H24N4O7S.0.91 HCl (521.70): C, 50.33; H, 4.80; N, 10.67. Found: C, 50.27; H, 5.01; N, 10.40.

reactant | N-[3-((R)-2-Indazol-1-yl-1-methyl-ethoxy)-4-(2-ethoxy-5-oxo-tetrahydro-furan-3-ylsulfamoyl)-phenyl]-acetamide | 0.199 mmol, 0.103 g | N1(N=CC2=CC=CC=C12)C[C@H](OC=1C=C(C=CC1S(NC1C(OC(C1)=O)OCC)(=O)=O)NC(C)=O)C | C24H28N4O7S
reactant | HCl | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[4-acetylamino-2-((R)-2-indazol-1-yl-1-methyl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid hydrochloric acid salt | 0.113 mmol, 0.059 g, 65.5% | Cl.C(C)(=O)NC1=CC(=C(C=C1)S(=O)(=O)NC(CC(=O)O)C=O)O[C@@H](CN1N=CC2=CC=CC=C12)C | InChI=1S/C22H24N4O7S.ClH/c1-14(12-26-19-6-4-3-5-16(19)11-23-26)33-20-9-17(24-15(2)28)7-8-21(20)34(31,32)25-18(13-27)10-22(29)30;/h3-9,11,13-14,18,25H,10,12H2,1-2H3,(H,24,28)(H,29,30);1H/t14-,18?;/m1./s1
